US06562811B1
To a cold (0° C.) solution of 3-[(tert-butoxycarbonyl)amino]-cyclohexanecarboxylic acid (5.00 g, 20.6 mmol) in CH2Cl2 (50 mL) including triethylamine (3.1 mL, 22.2 mmol) were added benzotriazol-1-yloxytris(pyrrolidino)phosphonium hexa-fluorophosphate (10.7 g, 20.6 mmol), N,O-dimethylhydroxyamine hydrochloride (2.21 g, 20.6 mmol) and Et3N (3.2 mL, 23.0 mmol) successively. The resulting mixture was allowed to warm to room temperature, and the stirring was continued for 18 hrs. The reaction mixture was diluted with CH2Cl2 and washed with 1N HCl, saturated aqueous NaHCO3 solution, and brine, successively. The organic phase was dried over Na2SO4, filtered, and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=1:1) to give tert-butyl 3-([methoxy(methyl)amino]carbonyl}cyclohexylcarbamate as a colorless oil (5.39 g, yield; 92%).

reactant | 3-[(tert-butoxycarbonyl)amino]-cyclohexanecarboxylic acid | 20.6 mmol, 5.00 g | C(C)(C)(C)OC(=O)NC1CC(CCC1)C(=O)O | C12H21NO4
reactant | triethylamine | 22.2 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(pyrrolidino)phosphonium hexa-fluorophosphate | 20.6 mmol, 10.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,O-dimethylhydroxyamine hydrochloride | 20.6 mmol, 2.21 g | Cl.CNOC
reactant | Et3N | 23.0 mmol, 3.2 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-([methoxy(methyl)amino]carbonyl}cyclohexylcarbamate | 5.39 g, yield; 92% | CON(C(=O)C1CC(CCC1)NC(OC(C)(C)C)=O)C | C14H26N2O4
